data/rdb19/train.csv
rxn,smiles,ea
1749,[C:15]([C:16]([C:17]([C:18]([H:26])([H:27])[H:28])([C:19]([H:29])([H:30])[H:31])[C:20]([H:32])([H:33])[H:34])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:15]([C:16]([C:17]([C:18]([H:26])([H:27])[H:28])([C:19]([H:29])([H:30])[H:31])[C:20]([H:32])([H:33])[H:34])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:25])([H:11])[H:12])([H:8])([H:9])[H:10],23.268313232576475
4688,[C:17]([C:18](=[O:19])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[O:7][H:16])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3](=[C:4]([H:13])[H:14])[C:5](=[O:6])[O:7][H:16])([H:11])[H:12])([H:8])([H:9])[H:10].[H:15][C:21]([O:20][C:18]([C:17]([H:23])([H:24])[H:25])=[O:19])([C:22]([H:27])[H:28])[H:26],41.1670837829588
1772,[C:15]([O:16][C:17](=[O:18])[C:19](=[C:20]([H:25])[H:26])[C:21]([H:27])([H:28])[H:29])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:15]([O:16][C:17](=[O:18])[C:19]=[C:20]([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([C:2](=[C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10].[H:12][C:21]([H:27])([H:28])[H:29],85.59902338852407
3656,[C:17]([O:18][C:19](=[O:20])[C:21](=[C:22]([H:27])[H:28])[C:23]([H:29])([H:30])[H:31])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:4])([C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[C:19]([O:18][C:17]([H:24])([H:25])[H:26])([O:20])[C:21](=[C:22]([H:27])[H:28])[C:23]([H:29])([H:30])[H:31])([H:10])[H:11])([H:7])([H:8])[H:9],28.20799569349037
3576,[C:17]([C:18](=[C:19]([H:26])[H:27])[C:20](=[O:21])[O:22][H:28])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])[H:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:18](=[C:19]([H:26])[H:27])[C:20](=[O:21])[O:22][H:28].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])([H:7])[C:17]([H:23])([H:24])[H:25])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],62.99078806466423
2928,[C:16]([C:17]([C:18]([C:19]([H:26])([H:27])[H:28])[C:20]([H:29])([H:30])[H:31])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]=[C:7]([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][C:18]([C:17]([C:16]([H:21])([H:22])[H:23])([H:24])[H:25])([C:19]([H:26])([H:27])[H:28])[C:20]([H:29])([H:30])[H:31],27.242892945650965
5134,[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26]([C:27]([H:28])[H:29])([O:30][C:31](=[O:32])[C:33]([H:38])([H:39])[H:40])[H:37])([H:34])([H:35])[H:36]>>[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([C:5]1=[C:6]([H:20])[C:7]([H:21])([H:37])[C:8]([H:22])[C:9]([H:23])=[C:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26](=[C:27]([H:28])[H:29])[O:30][C:31](=[O:32])[C:33]([H:38])([H:39])[H:40])([H:34])([H:35])[H:36],42.046459581237286
3372,[C:13]([C:14]([C:15]([H:16])[O:17][C:18](=[O:19])[C:20]([H:26])([H:27])[H:28])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7]>>[C:1]([C:2](=[C:3][H:9])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7].[H:8][C:15]([C:14]([C:13]([H:21])([H:22])[H:23])([H:24])[H:25])([H:16])[O:17][C:18](=[O:19])[C:20]([H:26])([H:27])[H:28],28.666243001411203
1799,[C:15]([C:16](=[C:17]([H:24])[H:25])[C:18](=[O:19])[O:20][H:26])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:15]([C:16](=[C:17]([H:24])[H:25])[C:18](=[O:19])[O:20])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:26])([H:11])[H:12])([H:8])([H:9])[H:10],29.526289199769963
3345,[C:13]([C:14]([C:15]([H:16])[O:17][C:18]([H:24])([H:25])[H:26])([H:22])[H:23])([H:19])([H:20])[H:21].[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7]>>[C:1]([C:2](=[C:3][H:9])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7].[H:8][C:15]([C:14]([C:13]([H:19])([H:20])[H:21])([H:22])[H:23])([H:16])[O:17][C:18]([H:24])([H:25])[H:26],29.7321178985585
3749,[C:17]([C:18]([C:19]([C:20]([H:30])([H:31])[H:32])([N:21]([C:22](=[O:23])[H:34])[H:33])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:17]([H:24])([H:25])[H:26].[C:1]([C:2](=[C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9].[H:11][C:18]([C:19]([C:20]([H:30])([H:31])[H:32])([N:21]([C:22](=[O:23])[H:34])[H:33])[H:29])([H:27])[H:28],88.03467710269615
